US03962303
A solution of 5.8 g of 2-methyl-3-(p-chlorobenzoyl)-phenylacetic acid in 25 ml of thionyl chloride was refluxed for 11/2 hours and excess thionyl chloride was removed to obtain 2-methyl-3-(p-chlorobenzoyl)-phenylacetic acid chloride melting at 62°-63°C.

reactant | 2-methyl-3-(p-chlorobenzoyl)-phenylacetic acid | 5.8 g | CC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)O | C16H13ClO3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-methyl-3-(p-chlorobenzoyl)-phenylacetic acid chloride | CC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)Cl | C16H12Cl2O2
